US09301951B2
Intermediate 69c: tert-butyl 2-(2-nitro-5-(piperidin-1-yl)phenyl)pyridin-4-yl(3-(trifluoro-methyl)benzyl)carbamate
Into a 100-mL round bottom flask, was placed a solution of 2-(2-nitro-5-(piperidin-1-yl)phenyl)-N-(3-(trifluoromethyl)benzyl)pyridin-4-amine (670 mg, 1.47 mmol, 1.00 equiv) in dichloromethane (40 mL), (Boc)2O (960 mg, 4.40 mmol, 3.00 equiv), and 4-dimethylaminopyridine (268 mg, 2.20 mmol, 1.50 equiv). The resulting solution was stirred overnight at 35° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 30/30 mL of H2O/DCM, and adjusted to pH 7 with sulfuric acid (1 N). The resulting solution was extracted with 3×50 mL of dichloromethane and the organic layers combined, dried over sodium sulfate, and concentrated under vacuum. The product was obtained as 760 mg (93%) of a yellow solid.

reactant | 2-(2-nitro-5-(piperidin-1-yl)phenyl)-N-(3-(trifluoromethyl)benzyl)pyridin-4-amine | 1.47 mmol, 670 mg, 1.00 equiv | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)NCC1=CC(=CC=C1)C(F)(F)F | C24H23F3N4O2
reactant | (Boc)2O | 4.40 mmol, 960 mg, 3.00 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.20 mmol, 268 mg, 1.50 equiv | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 2-(2-nitro-5-(piperidin-1-yl)phenyl)pyridin-4-yl(3-(trifluoro-methyl)benzyl)carbamate | 760 mg, 93% | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)N(C(OC(C)(C)C)=O)CC1=CC(=CC=C1)C(F)(F)F | C29H31F3N4O4
